US03953604
A solution of 2,6-dihydroxyacetophenone (15.2 g), 2,5-dimethylphenylglycidyl ether (17.8 g) and benzyltrimethylammonium hydroxide (10 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under reflux for 2 days. The solvent was then removed under reduced pressure to give a dark viscous oil which soon crystallized. The sticky solid was triturated with ether, filtered, and washed with small portions of ether to give 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(2,5-dimethylphenoxy) propane (15.6 g) as a cream powder, m.p. 104°-105.5° C.

reactant | 2,6-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | 2,5-dimethylphenylglycidyl ether | 17.8 g | CC1=C(C=C(C=C1)C)C(C1CO1)OC(C1CO1)C1=C(C=CC(=C1)C)C | C22H26O3
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(2,5-dimethylphenoxy) propane | 15.6 g | C(C)(=O)C1=C(OCC(COC2=C(C=CC(=C2)C)C)O)C=CC=C1O | C19H22O5
